US04839371
Zinc amalgam prepared from zinc (41 g) and HgCl2 (4.1 g) was stirred in a mixture of 3-(3-fluorobenzoyl)pyridine (19.0 g, 0.095 mol), H2O (25 ml) and 12 N HCL (60 ml). The resulting mixture was stirred and heated at reflux for 30 hours. Occasionally during the course of the reaction HCl gas was passed through the mixture, and after 20 hours, additional zinc metal (41 g) was added. After 30 hours the reaction mixture was cooled, decanted, made strongly basic with 10% NaOH, and extracted three times with CH2Cl2. The extracts were dried (Na2SO4) and concentrated, and the residue was distilled to yield 5.2 g (29%) of 3-(3-fluorobenzyl)pyridine: bp 100°-110° C./79.99 Nm-2.

reactant | 3-(3-fluorobenzoyl)pyridine | 0.095 mol, 19.0 g | FC=1C=C(C(=O)C=2C=NC=CC2)C=CC1 | C12H8FNO
reactant | HCl | Cl | ClH
catalyst | zinc | 41 g | [Zn] | Zn
catalyst | HgCl2 | 4.1 g | Cl[Hg]Cl
catalyst | zinc | 41 g | [Zn] | Zn
solvent | H2O | 25 ml | O | H2O
product | 3-(3-fluorobenzyl)pyridine | 5.2 g, 29% | FC=1C=C(CC=2C=NC=CC2)C=CC1 | C12H10FN
